US07935816B2
Synthesis of bis(trifluoroacetamidohexyl)amine (2)
Bis(hexamethylene)triamine (8.62 g, 40 mmol) was dissolved in acetonitrile (120 ml). Water (0.864 ml) was added to the mixture. Ethyl trifluoroacetate (16.7 ml, 140 mmol) was added to the mixture cooled in an ice bath. After addition, the mixture was refluxed for 16 hours. The solvents were removed by evaporation. The residue solidified upon storing at room temperature and was used for next step without purification.

reactant | Bis(hexamethylene)triamine | 40 mmol, 8.62 g | C(CCCNCCCCCCN)CCN | C12H29N3
reactant | Water | 0.864 ml | O | H2O
reactant | Ethyl trifluoroacetate | 140 mmol, 16.7 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | bis(trifluoroacetamidohexyl)amine | FC(C(=O)NCCCCCCNCCCCCCNC(C(F)(F)F)=O)(F)F | C16H27F6N3O2
